US05731452
Using as the materials and reagents (1E,3S,5R)-1-iodo-3-(tert-butyldimethylsiloxy)-5-methyl-1-nonene (785 mg), tert-butyllithium (1.54 mol/1, 2.57 ml), 287 mg of 1-hexynylcopper, hexamethylphosphorous triamide (720 μl), 2-(5-methoxycarbonylpentylthio)-2-cyclopenten-1-one (400 mg), and butyric anhydride (729 μl), the same procedure was performed as in Example 1 to obtain methyl(13E,15S,17R)-9-butyryloxy-15-(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (367 mg).

reactant | (1E,3S,5R)-1-iodo-3-(tert-butyldimethylsiloxy)-5-methyl-1-nonene | 785 mg | I\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C16H33IOSi
reactant | tert-butyllithium | 1.54 mol, 2.57 ml | C(C)(C)(C)[Li]
reactant | 1-hexynylcopper | 287 mg | C(#CCCCC)[Cu]
reactant | 2-(5-methoxycarbonylpentylthio)-2-cyclopenten-1-one | 400 mg | COC(=O)CCCCCSC=1C(CCC1)=O | C12H18O3S
reactant | butyric anhydride | 729 μl | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | hexamethylphosphorous triamide | 720 μl | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | methyl(13E,15S,17R)-9-butyryloxy-15-(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 367 mg | C(CCC)(=O)OC1=C(SCCCCCC(=O)OC)[C@H](CC1)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C32H58O5SSi
